US04992543
(R)-3-Thiolanyl p-Toluenesulfonate
(R)-4-(Methylthio)1,2-butanediol (1.0 g, 7.35 mmol) and p-toluenesulfonyl chloride (3.0 g, 15.8 mmol) were combined in 10 ml of pyridine at 0°-5° C., then stirred at room temperature, at which time tlc (3:1 hexane:ethyl acetate) indicated no diol (Rf 0.1), appreciable of the diol ditosylate (Rf 0.53), some intermediate thiolanium salt (Rf 0.03) and a trace of title product (Rf 0.72). The reaction mixture was then heated at 60° C. for 8 hours, at which time tlc (5:1 hexane:ethyl acetate) indicated an appreciable amount of the desired title product (Rf 0.45), only a trace of the ditosylate (Rf 0.22), some probable thiolanium salt (Rf 0.0), and other, generally less polar impurities. The cooled reaction mixture was diluted with an equal volume of water and two volumes of ethyl acetate. The organic layer was separated, washed with saturated NaCl, dried (MgSO4), stripped and the residue chromatographed on silica gel using 10:1 hexane:ethyl acetate as eluant to yield 0.1 g less polar impurities (stench!) and 0.25 g of present, purified title product; tlc Rf 0.55 (4:1 hexane:ethyl acetate); [alpha]D =+15.87 (c=0.6, CH3OH).

reactant | (R)-4-(Methylthio)1,2-butanediol | 7.35 mmol, 1.0 g | CSCC[C@H](CO)O | C5H12O2S
reactant | p-toluenesulfonyl chloride | 15.8 mmol, 3.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hexane | CCCCCC | C6H14
reactant | thiolanium | [SH+]1CCCC1
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-Thiolanyl p-Toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O[C@H]1CSCC1)C | C11H14O3S2
